US05958967
4-(4-Acetoxyphenyl)-3-phenyl-6-methoxy-coumarin
A mixture of (2-hydroxy-5-methoxyphenyl)-(4-hydroxyphenyl)-methanone (0.59 g, 2.42 mmol), acetic anhydride (1.15 ml, 12.1 mmol), triethylamine (0.44 ml, 3.16 mmol), and phenyl acetic acid (0.33 g, 2.42 mmol) was stirred at 135° C. for 18 h. The resulting orange coloured solution was poured into water (20 ml) and stirred for 3 h, and the resulting mixture of aqueous solution plus sticky solid was diluted with ethyl acetate (20 ml) to dissolve the solid, and the organic layer separated. The aqueous phase was further extracted with ethyl acetate (2×20 ml). The combined organic extracts were washed with water, then brine, dried over sodium sulfate and evaporated to give a yellow/orange gum. This gum was dissolved in a minimum of ether and petrol added to precipitate the title compound as an off white powder.

reactant | (2-hydroxy-5-methoxyphenyl)-(4-hydroxyphenyl)-methanone | 2.42 mmol, 0.59 g | OC1=C(C=C(C=C1)OC)C(=O)C1=CC=C(C=C1)O | C14H12O4
reactant | acetic anhydride | 12.1 mmol, 1.15 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 3.16 mmol, 0.44 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl acetic acid | 2.42 mmol, 0.33 g | C1(=CC=CC=C1)CC(=O)O | C8H8O2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | ether | CCOCC | C4H10O
solvent | water | 20 ml | O | H2O
product | 4-(4-Acetoxyphenyl)-3-phenyl-6-methoxy-coumarin | C(C)(=O)OC1=CC=C(C=C1)C1=C(C(OC2=CC=C(C=C12)OC)=O)C1=CC=CC=C1 | C24H18O5
